US07417060B2
To a solution of tert-butyl [2-[3′-(isopropylamino)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl]-carbamate (411 mg) in ethyl acetate (2 ml) was added hydrogen chloride ethyl acetate solution (4N, 2 ml) and stirred at room temperature overnight. The reaction mixture was evaporated and the residue was pulverized with diisopropyl ether. The resulting solid was collected by filtration and dried to give 4′-(2-aminoethyl)-3-(isopropylamino)-N-(methylsulfonyl)-4-biphenylcarboxamide dihydrochloride (281 mg).

reactant | tert-butyl [2-[3′-(isopropylamino)-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]ethyl]-carbamate | 411 mg | C(C)(C)NC=1C=C(C=CC1C(=O)NS(=O)(=O)C)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C24H33N3O5S
reactant | hydrogen chloride ethyl acetate | 4N, 2 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 4′-(2-aminoethyl)-3-(isopropylamino)-N-(methylsulfonyl)-4-biphenylcarboxamide dihydrochloride | 281 mg | Cl.Cl.NCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)NC(C)C | InChI=1S/C19H25N3O3S.2ClH/c1-13(2)21-18-12-16(15-6-4-14(5-7-15)10-11-20)8-9-17(18)19(23)22-26(3,24)25;;/h4-9,12-13,21H,10-11,20H2,1-3H3,(H,22,23);2*1H
